US04897401
A mixture of 1.82 parts of 3-bromo-1-propene, 7.4 parts of 3-[(5-methyl-2-furanyl)methyl]-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate (2:1), 4.2 parts of sodium hydrogen carbonate and 120 parts of ethanol was stirred overnight at reflux temperature. The reaction mixture was filtered and the filtrate was evaporated. The residue was taken up in water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in a mixture of 2-propanone and methanol. The salt was filtered off and dried, yielding 2 parts (23%) of 3-[(5-methyl-2-furanyl)methyl]-N-[1-(2-propenyl)-4-piperidinyl]-3H-imidazo-[4,5-b]pyridin-2-amine (E)-2-butenedioate(1:2); mp. 172.7° C. (compound 5).

reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
reactant | 3-[(5-methyl-2-furanyl)methyl]-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate | C(C(=O)O)(=O)O.CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CCNCC2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[(5-methyl-2-furanyl)methyl]-N-[1-(2-propenyl)-4-piperidinyl]-3H-imidazo-[4,5-b]pyridin-2-amine (E)-2-butenedioate | 23% | C(\C=C\C(=O)O)(=O)O.CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CC=C | InChI=1S/C20H25N5O.C4H4O4/c1-3-11-24-12-8-16(9-13-24)22-20-23-18-5-4-10-21-19(18)25(20)14-17-7-6-15(2)26-17;5-3(6)1-2-4(7)8/h3-7,10,16H,1,8-9,11-14H2,2H3,(H,22,23);1-2H,(H,5,6)(H,7,8)/b;2-1+
